US07282501B2
3-[4-Hydroxy-2-(3-isopropyl-ureidomethyl)-phenyl]-propionic acid tert-butyl ester
A slurry of 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester (2.24 g, 8.91 mmol) in CH2Cl2 (30 mL) was treated with isopropyl isocyanate (1.1 mL, 11 mmol). The reaction mixture was diluted with water, the CH2Cl2 was removed under reduced pressure, and the aqueous layer was extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated to the title compound as a white solid (2.6 g, 87%). MS (ES+) m/z 337 [M+H]+.

reactant | 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester | 8.91 mmol, 2.24 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN)=O | C14H21NO3
reactant | isopropyl isocyanate | 11 mmol, 1.1 mL | C(C)(C)N=C=O | C4H7NO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[4-Hydroxy-2-(3-isopropyl-ureidomethyl)-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)NC(C)C)=O | C18H28N2O4
